data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_369406_1,[C:1](/[C:2]([C:6]([H:22])([H:23])[H:24])=[C:8](\[O:9][H:10])[H:12])([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[N:7]([C:5]([H:19])([H:20])[H:21])[H:11]>>[C:1]([C:2]([C:6]([H:22])([H:23])[H:24])([C:8](=[O:9])[H:12])[H:11])([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[N:7]([C:5]([H:19])([H:20])[H:21])[H:10],30.617607499993227
MR_378574_0,[C:1]([N:3]([N:2]([O:4][H:7])[N:5]=[O:6])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:3]([N:2]([O:4][H:7])[H:8])[N:5]=[O:6])([H:9])([H:10])[H:11],57.86051999998179
MR_76912_0,[C:1](/[N:5]=[C:3](\[C:2]([H:11])([H:12])[H:13])[N:4]([H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([N:5](/[C:3]([C:2]([H:11])([H:12])[H:13])=[N:4]/[H:6])[H:7])([H:8])([H:9])[H:10],44.02100749998517
MR_388098_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:4](\[O:6][H:8])[H:11])([C:5](=[O:7])[H:12])([H:13])[H:14]>>[C:1](=[C:2]([N:3]([H:9])[H:10])[C@@:4]([C:5](=[O:7])[H:12])([O:6][H:8])[H:11])([H:13])[H:14],42.11026999997614
MR_278254_0,[C:1]([C:2]([C:3]([C:7]([C:6]([H:22])([H:23])[H:24])=[O:9])([H:14])[H:15])([H:12])[H:13])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[N:8]([H:10])[H:11]>>[C:1](\[C:2]([C:3]([C:7]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[O:9][H:10])([H:14])[H:15])([H:12])[H:13])([C:4]([H:16])([H:17])[H:18])=[N:8]/[H:11],67.91181500000121
MR_115618_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([O:6][H:9])=[O:8])(/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]\[H:11])[H:10]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:4](/[O:6][H:9])[O:8]/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]\[H:11])[H:10],73.02343000000789
MR_560234_0,[C:1]([C:4](/[C:3](=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])[N:6]([H:9])[H:10])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4](/[C:5](=[C:3](/[C:2]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])[N:7]([H:11])[H:12])=[O:8])([H:13])([H:14])[H:15],61.93425000000502
MR_289947_1,[C:1]([N:8](/[C:4]([N:7]([H:12])[H:13])=[N:9]\[H:14])/[C:5]([C:2]([H:18])([H:19])[H:20])=[N:3]\[N:6]([H:10])[H:11])([H:15])([H:16])[H:17]>>[C:1](/[N:8]=[C:5](\[C:2]([H:18])([H:19])[H:20])[N:3](/[C:4]([N:7]([H:12])[H:13])=[N:9]\[H:14])[N:6]([H:10])[H:11])([H:15])([H:16])[H:17],70.81964999997183
MR_527167_0,[C:1]1([N:7]([H:12])[H:13])([O:8][C:6]([O:9][H:11])=[O:10])[C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:3]1([H:14])[H:15]>>[C:1]([C:3]([C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:6]([O:9][H:11])=[O:10])([H:14])[H:15])([N:7]([H:12])[H:13])=[O:8],54.87173749993019
MR_430138_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]([H:12])([H:13])[H:20])[N:6](/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:9]/[H:11])[O:8][H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]([H:12])([H:13])[H:20])[N:9](/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:6]/[O:8][H:10])[H:11],59.8114174999786
MR_204967_1,[C:1]1([C:4]([H:19])([H:20])[H:21])([H:11])[C:7]([N:5]([C:2]([H:13])([H:14])[H:15])[H:9])([N:6]([C:3]([H:16])([H:17])[H:18])[H:10])[N:8]1[H:12]>>[C:1]([C:4]([H:19])([H:20])[H:21])([N:6]([C:3]([H:16])([H:17])[H:18])[H:10])(/[C:7]([N:5]([C:2]([H:13])([H:14])[H:15])[H:9])=[N:8]\[H:12])[H:11],63.66865999994204
MR_466043_1,[N:1]1([N:4]([H:10])[H:11])[C:2]([O:8][H:9])=[C:5]([H:12])[O:7][C:3]1=[C:6]([H:13])[H:14]>>[N:1](=[C:2](/[C:5]1([H:12])[C:3](=[C:6]([H:13])[H:14])[O:7]1)[O:8][H:9])\[N:4]([H:10])[H:11],60.82483000002384
MR_123896_1,[C:1](/[C:4](=[C:2](/[O:6][C:3](=[C:5]([H:14])[H:15])[H:9])[O:7][H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:4](=[C:2](/[C:5]([C:3](=[O:6])[H:9])([H:14])[H:15])[O:7][H:8])[H:10])([H:11])([H:12])[H:13],58.25396250002285
MR_245159_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([N:5]([H:8])[H:9])/[N:6]=[N:7]/[C:4]([H:16])([H:17])[H:18]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([N:5]([H:8])[H:9])[N:6]([N:7]=[C:4]([H:16])[H:17])[H:18],62.40801250002164
MR_5275_1,[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])[H:8])(/[C:6]([C:3]([H:15])([H:16])[H:17])=[C:7](/[C:4]([H:18])([H:19])[H:20])[H:11])([H:9])[H:10]>>[C:1](=[C:6]([C:3]([H:15])([H:16])[H:17])[C@@:7]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[H:8])[H:11])([H:9])[H:10],72.62936000000408
MR_620475_0,[C:1](/[C:4]([N:3]([N:2](/[N:5]=[N:6]/[H:10])[H:8])[H:9])=[N:7]/[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:4]([N:2]([N:3](/[N:5]=[N:6]/[H:10])[H:9])[H:8])=[N:7]/[H:11])([H:12])([H:13])[H:14],62.06602499999335
MR_569014_1,[C:1]1([O:6][H:10])([O:7][H:11])[C:2]([H:13])([H:14])[N:4]1[C:3]([C:5]([O:8][H:12])=[O:9])([H:15])[H:16]>>[C:1]([C:2]([N:4]=[C:3]([H:15])[H:16])([H:13])[H:14])([C:5]([O:8][H:12])=[O:9])([O:6][H:10])[O:7][H:11],60.06367250001944
MR_675627_1,[C:1]([C:6]([N:5]([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[H:20])([O:7][C:2]([H:12])([H:13])[H:14])[O:9][H:10])(=[O:8])[H:11]>>[C:1]([C:6]([N:5]([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[H:20])=[O:9])([O:7][C:2]([H:12])([H:13])[H:14])([O:8][H:10])[H:11],14.753780000024648
